* C:\Users\Ema\Desktop\CIRUITOS2\TP1\GeneradorTriangular.asc
R1 N003 N006 470
R2 N002 N003 470
C1 Vo 0 3n
V1 N001 0 5
V2 Vcc 0 40
A1 N004 N005 0 0 0 Vq_neg Vq 0 SRFLOP Vhigh=5
M1 N018 Vq 0 0 BS170
Q1 Vo N009 N008 0 BC557B
Q2 N010 N009 N007 0 BC557B
Q3 0 N010 N009 0 BC557B
R3 Vcc N007 100
Q4 Vo N012 N016 0 BC547B
Q5 N010 N012 N015 0 BC547B
Q6 N011 N012 N013 0 BC547B
Q7 Vcc N011 N012 0 BC547B
R5 Vcc N011 18k
R6 N013 0 100
Q8 N006 N012 N014 0 BC547B
R7 N014 0 100
V3 Vreg 0 12
XU1 N001 N003 Vreg 0 N002 TL081
XU2 Vo N002 Vreg 0 N004 TL081
XU3 N006 Vo Vreg 0 N005 TL081
R8 N016 N018 100
M2 N017 Vq_neg 0 0 BS170
R4 N015 N017 100
R9 Vcc N008 100
.model NPN NPN
.model PNP PNP
.lib C:\Users\Ema\Documents\LTspiceXVII\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ema\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 1m 20u
.inc TL081.301
.model BS170 VDMOS VTO=1.824 RG=270 RS=1.572 RD=1.436 RB=.768 KP=.1233 Cgdmax=20p Cgdmin=3p CGS=28p Cjo=35p Rds=1.2E8 IS=5p Bv=60 Ibv=10u Tt=161.6n
.inc LM319.lib
.backanno
.end
