* connections: non-inverting input
* | inverting input
* | | positive power supply
* | | | negative power supply
* | | | | open collector output
* | | | | | output ground
* | | | | | |
.subckt LM119 1 2 3 4 5 6
*
f1 3 9 v1 1
iee 7 4 dc 100.0E-6
q1 9 2 7 qin
q2 8 1 7 qin
q3 9 8 3 qmo
q4 8 8 3 qmi
.model qin NPN(Is=800.0E-18 Bf=333.3)
.model qmi PNP(Is=800.0E-18 Bf=1002)
.model qmo PNP(Is=800.0E-18 Bf=1000 Cjc=1E-15 Tr=59.42E-9)
e1 10 6 3 9 1
v1 10 11 dc 0
q5 5 11 6 qoc
.model qoc NPN(Is=800.0E-18 Bf=41.38E3 Cjc=1E-15 Tf=23.91E-12 Tr=24.01E-9)
dp 4 3 dx
rp 3 4 5.556E3
.model dx D(Is=800.0E-18 Rs=1)
*
.ends
*$