* D:\GOOGLE DRIVE\FACULTAD\DISEÑO DE CIRCUITOS ELECTRONICOS\DCE-GRUPO10\TP1\LTSpice\4043.asc
A1 S 0 0 0 0 N002 0 0 BUF td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A2 0 0 N002 N003 0 N004 0 0 AND td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A3 0 N004 N006 0 0 N008 0 0 OR td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A4 R 0 0 0 0 N007 0 0 BUF td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A5 E 0 0 0 0 N006 0 0 BUF td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A6 0 N004 0 N007 0 N003 0 0 AND td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A7 0 N001 0 N004 0 N005 0 0 AND td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
A8 N006 0 0 0 0 N001 0 0 BUF td={tdgate} tripdt={tripdtgate} vhigh={vhighgate} vlow={vlowgate}
M1 Q N005 Vcc Vcc PMOS
M2 Q N008 0V 0V NMOS
C1 N004 0 10p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Ema\Documents\LTspiceXVII\lib\cmp\standard.mos
* .param tdgate=10n tdgate2=3*tdgate tripdtgate=1n vhighgate=5v vlowgate=0v
.backanno
.end
